US06936632B2
b) 6-Isobutyl-5-methyl-7-phenyl-2,3-dihydro-1H-pyrrolizine
A solution of 2-methyl-1-(3-methyl-1-phenyl-6,7-dihydro-5H-pyrrolizin-2-yl)-propan-1-one (7.5 g, 28 mmol) in CH2Cl2 (140 ml) is treated successively with NaCNBH3 (7.4 g, 112 mmol) and ZnI2 (12.5 g, 40 mmol) and the mixture is stirred at RT for 2 h (TLC: SiO2/diethyl ether; starting material Rf 0.75; product Rf 8.8). The mixture is covered with a layer of H3PO4 (8%, 200 ml) with ice cooling and stirred for 16 h. The CH2Cl2 phase is separated and washed with water (50 ml), dried over Na2SO4 sicc. and concentrated in vacuo. The residue (7.5 g, 106%) is recrystallized from MeOH.

reactant | 2-methyl-1-(3-methyl-1-phenyl-6,7-dihydro-5H-pyrrolizin-2-yl)-propan-1-one | 28 mmol, 7.5 g | CC(C(=O)C=1C(=C2CCCN2C1C)C1=CC=CC=C1)C | C18H21NO
reactant | NaCNBH3 | 112 mmol, 7.4 g | [BH3-]C#N.[Na+]
reactant | H3PO4 | 200 ml | OP(=O)(O)O | H3O4P
solvent | CH2Cl2 | 140 ml | C(Cl)Cl | CH2Cl2
catalyst | ZnI2 | 40 mmol, 12.5 g | [Zn+2].[I-].[I-]
product | 6-Isobutyl-5-methyl-7-phenyl-2,3-dihydro-1H-pyrrolizine | C(C(C)C)C1=C(N2CCCC2=C1C1=CC=CC=C1)C | C18H23N
